US06159989
(S)-3-{2-[5-[2-(2-aza-bicyclo[2.2.2]oct-2-yl)-1,1-dimethyl-2-oxo-ethyl]-2-(3,5-dimethyl-phenyl)-1H-indol-3-yl]-propylamino}-propionic acid tert-butyl ester
To a solution of (S)-2-[3-(2-amino-1-methylethyl)-2-(3,5-dimethylphenyl)-1H -indol-5-yl]-1-(2-aza-bicyclo[2.2.2]oct-2-yl)-2-methylpropan-1-one (248.6 mg in 2.0 mL absolute ethanol) was added 0.080 mL tert-butyl acrylate and the mixtureheated to 70° C. on an oil bath. After 3 hours, the mixture was cooled to room temperature and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (methylene chloride:methanol, 94:6) to give the title compound (232 mg).

reactant | (S)-2-[3-(2-amino-1-methylethyl)-2-(3,5-dimethylphenyl)-1H -indol-5-yl]-1-(2-aza-bicyclo[2.2.2]oct-2-yl)-2-methylpropan-1-one | 2.0 mL, 248.6 mg | NC[C@@H](C)C1=C(NC2=CC=C(C=C12)C(C(=O)N1C2CCC(C1)CC2)(C)C)C2=CC(=CC(=C2)C)C | C30H39N3O
reactant | tert-butyl acrylate | 0.080 mL | C(C=C)(=O)OC(C)(C)C | C7H12O2
product | (S)-3-{2-[5-[2-(2-aza-bicyclo[2.2.2]oct-2-yl)-1,1-dimethyl-2-oxo-ethyl]-2-(3,5-dimethyl-phenyl)-1H-indol-3-yl]-propylamino}-propionic acid tert-butyl ester | 232 mg | C(C)(C)(C)OC(CCNC[C@@H](C)C1=C(NC2=CC=C(C=C12)C(C(=O)N1C2CCC(C1)CC2)(C)C)C2=CC(=CC(=C2)C)C)=O | C37H51N3O3
